US04956342
Dimethylaluminum chloride (300 mL of a 1M hexane solution) was added to a cooled (10° C.) solution of 1,3,3,5,5-pentamethyl-4-(1-methylethenyl)-1-cyclohexene (46.18g, 0.24 mol) in dichloromethane (500 mL). The mixture was stirred at 25° C. for 2 hr. Afterwhich the mixture was hydrolyzed by the addition of phosphate buffer solution (200 mL, prepared from 100 mL of 0.1M potassium phosphate, monobasic and 44.8 mL of 0.1M sodium hydroxide diluted to 200 mL with water) followed by the addition of sufficient 1 N hydrochloric acid solution to dissolve the aluminum salts. The layers were separated and the aqueous layer extracted with dichloromethane (200 mL). The combined organic layers were washed with water (100 mL) and saturated sodium bicarbonate solution (2×100 mL). The solvents were evaporated and the residue chromatographed. Combination of fractions and distillation provided 27.8g of α,2,2,4,6,6,-hexamethyl-γ-methylene-3-cyclohexene-1-propanol, bp 100°-105° C., 0.5 mm (GLC purity, two isomers, 41.4% and 56.6%). 1H-NMR (60 MHz, CDCl3) δ0.92 and 0.98 (12H, 2s), 1.20 (3H,d, J =6Hz), 1.58 (3H, s), 1.2-2.6 (5H, m) 3.8-4.2 (1H, m), 4.9-5.2 (3H, s:): IR (film) vmax 3340, 2950, 1635, 1440, 1370, 1350 cm-1 ; MS m/e 236, 221, 218, 203, 140, 125, 107, 96.

reactant | Dimethylaluminum chloride | [Cl-].C[Al+]C
reactant | 1,3,3,5,5-pentamethyl-4-(1-methylethenyl)-1-cyclohexene | 0.24 mol, 46.18g | CC1=CC(C(C(C1)(C)C)C(=C)C)(C)C | C14H24
reactant | phosphate | 0.1M, 200 mL | P(=O)([O-])([O-])[O-]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | aluminum | [Al] | Al
reactant | hexane | 1M | CCCCCC | C6H14
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | α,2,2,4,6,6,-hexamethyl-γ-methylene-3-cyclohexene-1-propanol | 27.8g | CC(CC(C1C(C=C(CC1(C)C)C)(C)C)=C)O | C16H28O
